US06177452B1
Ethyl 6-(4-chlorobenzoyl)-6-phenoxycarbonyloxyhexanoate (32.3 g), ammonium acetate(29.7 g) and acetic acid(150 ml) was stirred for 1 hour under reflux. Water was added to the reaction mixture to give ethyl 5-[4-(4-chlorophenyl)-2-oxo-4-oxazolin-5-yl]pentanoate(17.7 g, 71%). This was recrystallized from acetone-isopropyl ether to give colorless needls. mp 143-144° C.

reactant | Ethyl 6-(4-chlorobenzoyl)-6-phenoxycarbonyloxyhexanoate | 32.3 g | ClC1=CC=C(C(=O)C(CCCCC(=O)OCC)OC(=O)OC2=CC=CC=C2)C=C1 | C22H23ClO6
reactant | ammonium acetate | 29.7 g | C(C)(=O)[O-].[NH4+]
reactant | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
solvent | Water | O | H2O
product | ethyl 5-[4-(4-chlorophenyl)-2-oxo-4-oxazolin-5-yl]pentanoate | 17.7 g, 71% | ClC1=CC=C(C=C1)C=1NC(OC1CCCCC(=O)OCC)=O | C16H18ClNO4
